US04837204
Ethyl 2(R,S)-[[(4-morpholinyl)carbonyl]amino]-3,3-dimethyl-3-phenylpropionate
To a solution of ethyl hydrogen (α,α-dimethylbenzyl)malonate (4 g, 0.016 mole) in toluene was added triethylamine (2.23 ml, 0.016 mole) and diphenylphosphoryl azide (4.4 g, 0.016 mole). The reaction mixture was heated at 100° C. for 2.5 h, cooled to 5° C., and treated with 1.4 ml (0.016 mole) of morpholine. After stirring overnight at room temperature, the toluene solution was washed successively with 1N HCl and aqueous sodium bicarbonate solution. The dried organic solution was evaporated to a residue which was purified by column chromatography on silica gel. There was obtained 3.7 g (69%) of product after trituration with hexane, m.p. 93°-94° C.

reactant | ethyl hydrogen (α,α-dimethylbenzyl)malonate | 0.016 mole, 4 g | CC(C1=CC=CC=C1)(C)C(C(=O)OCC)C(=O)O | C14H18O4
reactant | triethylamine | 0.016 mole, 2.23 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 0.016 mole, 4.4 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | morpholine | 0.016 mole, 1.4 ml | N1CCOCC1 | C4H9NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2(R,S)-[[(4-morpholinyl)carbonyl]amino]-3,3-dimethyl-3-phenylpropionate | 3.7 g, 69% | N1(CCOCC1)C(=O)NC(C(=O)OCC)C(C1=CC=CC=C1)(C)C | C18H26N2O4
